US07799775B2
In 100 ml of ethylene glycol 8.6 g of anhydrous piperazine was dissolved, and to which 7-chlorofuro[2,3-c]pyridine was added, followed by an overnight's stirring at 140° C. After cooling, saturated aqueous sodium hydrogencarbonate solution was added to the solution, which was then extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified on silica gel column chromatography to provide 1.52 g (75%) of 7-piperazin-1-ylfuro[2,3-c]pyridine.

reactant | 7-chlorofuro[2,3-c]pyridine | ClC=1N=CC=C2C1OC=C2 | C7H4ClNO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | piperazine | N1CCNCC1 | C4H10N2
solvent | ethylene glycol | 100 ml, 8.6 g | C(CO)O | C2H6O2
product | 7-piperazin-1-ylfuro[2,3-c]pyridine | 1.52 g, 75% | N1(CCNCC1)C=1N=CC=C2C1OC=C2 | C11H13N3O
